US05561126
(3RS,5SR)-3-Benzylsulfinylmethyl-4-oxa-1-azabicyclo[3,2,0]heptan-7-one (R=SOCH2C6H5)
To the solution of (3RS, 5SR)-3-Benzylthiomethyl-4-oxa-1-azabicyclo[3,2,0] heptan-7-one (926 mg) in Dichloromethane (10 ml), the solution of m-Chloroperbenzoic acid (72%, 755 mg) in Dichloromethane (30 ml) was added dropwise under ice-cooling and stirred at same condition for 1 hr. The reaction mixture was poured into aqueous Sodium hydrogen carbonate, extracted with Chloroform, and dried over Sodium sulfate. The reaction mixture was purified by column (Ethyl acetate+Acetone 5:1). Yield: 570 mg (58%). m.p. 80.5°~94.5° C. NMR (CDCl3): 2.63-3.39 (5H, m), 4.03-4.15 (3H, m), 4.59-4.77 (1H, m), 7.26-7.40 (5H, m). IR (Nujol), cm-1 : 2940, 1706, 1494.

reactant | (3RS, 5SR)-3-Benzylthiomethyl-4-oxa-1-azabicyclo[3,2,0] heptan-7-one | 926 mg | C(C1=CC=CC=C1)SCC1CN2C(CC2O1)=O | C13H15NO2S
reactant | m-Chloroperbenzoic acid | 755 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | Sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | Dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | Dichloromethane | 30 ml | ClCCl | CH2Cl2
product | (3RS,5SR)-3-Benzylsulfinylmethyl-4-oxa-1-azabicyclo[3,2,0]heptan-7-one | C(C1=CC=CC=C1)S(=O)CC1CN2C(CC2O1)=O | C13H15NO3S
